US08541596B2
N,N-Bis(4-methoxybenzyl)-1H-benzo[d]imidazol-5-amine
The compound was synthesized starting from benzimidazol-5-amine (133 mg; 1 mmol; 1 eq.), 4-methoxybenzylbromide (442 mg; 0.317 ml; 2.2 mmol; 2.2 eq.) and K2CO3 (304 mg; 2.2 mmol; 2.2 eq.) according to method 5; Yield: 0.137 mg (36.7%); MS m/z: 374.1 [M+H]+; 1H-NMR (500 MHz, DMSO d6): δ 3.70 (s, 6H), 4.54 (s, 4H); 6.71 (d, 1H, 4J=2.2 Hz); 6.78 (dd, 1H, 4J=2.4 Hz, 3J=8.9 Hz); 6.84-6.87 (m, 4H); 7.17-7.20 (m, 4H); 7.33 (d, 1H, 3J=8.9 Hz); 7.93 (s, 1H); 12.03 (br s, 1H); HPLC (METHOD [A]): rt 15.56 min (99.5%)

reactant | benzimidazol-5-amine | 1 mmol, 133 mg, 1 eq. | N1=CNC2=C1C=CC(=C2)N | C7H7N3
reactant | 4-methoxybenzylbromide | 2.2 mmol, 0.317 ml, 442 mg, 2.2 eq. | COC1=CC=C(CBr)C=C1 | C8H9BrO
reactant | K2CO3 | 2.2 mmol, 304 mg, 2.2 eq. | C(=O)([O-])[O-].[K+].[K+]
product | N,N-Bis(4-methoxybenzyl)-1H-benzo[d]imidazol-5-amine | COC1=CC=C(CN(C2=CC3=C(NC=N3)C=C2)CC2=CC=C(C=C2)OC)C=C1 | C23H23N3O2
